US06235771B1
To a solution of 4-bromo-2-ethoxyphenol (8.0 g) in DMF (50 ml) were added at room temperature potassium carbonate (7.65 g), sodium iodide (6.64 g) and 2-chloroethylpropylether (5.6 ml), and the mixture was stirred at 90° C. for 24 hours. To the mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, 1N sodium hydroxide solution and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (ethyl acetate/hexane=1:4) to give yellow oil of 4-bromo-2-ethoxy-1-(2-propoxyethoxy)benzene (10.33 g).

reactant | 4-bromo-2-ethoxyphenol | 8.0 g | BrC1=CC(=C(C=C1)O)OCC | C8H9BrO2
reactant | potassium carbonate | 7.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 6.64 g | [I-].[Na+]
reactant | 2-chloroethylpropylether | 5.6 ml | ClCCOCCC | C5H11ClO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-bromo-2-ethoxy-1-(2-propoxyethoxy)benzene | 10.33 g | BrC1=CC(=C(C=C1)OCCOCCC)OCC | C13H19BrO3
